US04243682
4-(4-Fluoro-6-methoxy-2-naphthyl)butan-2-one
4-(4-Fluoro-6-methoxy-2-naphthyl)-4-hydroxy-but-3-en-2-one (3 g) was hydrogenated at atmospheric pressure and room temperature in glacial acetic acid (150 ml) using 10% palladium on carbon (0.5 g) catalyst. When hydrogen uptake had ceased the catalyst was removed by filtration and the filtrate concentrated. The residue was taken up in ether and the resulting solution washed with sodium bicarbonate solution, then water, dried (MgSO4) and concentrated in vacuo to give a low melting solid which was recrystallised from ether to give colourless crystals (1.40 g) m.p. 69°-70° C. 'H Nmr (CDCl3)δ: 6.81-7.71 (m, 5H), 3.89 (s, 3H), 2.88-2.99 (m, 4H), 2.12 (s, 3H).

reactant | 4-(4-Fluoro-6-methoxy-2-naphthyl)-4-hydroxy-but-3-en-2-one | 3 g | FC1=CC(=CC2=CC=C(C=C12)OC)C(=CC(C)=O)O | C15H13FO3
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 4-(4-Fluoro-6-methoxy-2-naphthyl)butan-2-one | 1.40 g | FC1=CC(=CC2=CC=C(C=C12)OC)CCC(C)=O | C15H15FO2
